US07482354B2
Ethyl 6-(hydroxymethylene)-1,5,5-trimethyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate
A solution of ethyl (3-methoxy-5,5-dimethyl-2-oxocyclohex-3-en-1-yl)(oxo)acetate (15.50 g, 0.061 mol) in acetic acid (100 mL) was treated dropwise with a solution of methyl hydrazine (3.49 mL, 0.066 mol) dissolved in acetic acid (50 mL). After 24 hours at room temperature, the reaction mixture was diluted with water (2 L) under vigorous stirring. The resulting precipitate was filtered and washed with water to obtain the title compound (10.30 g, 67.6% yield) as a yellow solid.

reactant | ethyl (3-methoxy-5,5-dimethyl-2-oxocyclohex-3-en-1-yl)(oxo)acetate | 0.061 mol, 15.50 g | COC=1C(C(CC(C1)(C)C)C(C(=O)OCC)=O)=O | C13H18O5
reactant | methyl hydrazine | 0.066 mol, 3.49 mL | CNN | CH6N2
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
reactant | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | water | 2 L | O | H2O
product | Ethyl 6-(hydroxymethylene)-1,5,5-trimethyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate | 10.30 g, 67.6% yield | OC=C1C(CC=2C(=NN(C2C1=O)C)C(=O)OCC)(C)C | C14H18N2O4
